US05814644
3-Chioropropionyl chloride (3.0 ml, 32 mmol) and piperidine (3.5 ml, 43.5 mmol) were added to a suspension of 2-aminobenzyltriphenylphosphonium bromide (13.0 g, 29 mmol) (synthesised using the procedure of Capuano et al, Chem. Ber., 1986, 119, 2069-2074) in dichloromethane (60 ml) under a nitrogen atmosphere. The mixture was heated at reflux for 30 min. and then cooled to room temperature. Dichloromethane (60 ml) and hydrochloric acid (1N, 50 ml) were added and the precipitated solid was collected by filtration, washed with dichloromethane and dried in vacuo to give 2-(3-chloropropionylamino)benzyltriphenylphosphonium bromide (7.5 g, 48%). The filtrate was diluted with dichloromethane (300 ml) and washed with sodium carbonate (satd., 150 ml). Evaporation of the dichloromethane gave a residue which was triturated with ether (200 ml) and the white solid collected to afford a second crop of product (5.0 g, 32%).

reactant | 3-Chioropropionyl chloride | 32 mmol, 3.0 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | piperidine | 43.5 mmol, 3.5 ml | N1CCCCC1 | C5H11N
reactant | 2-aminobenzyltriphenylphosphonium bromide | 29 mmol, 13.0 g | [Br-].NC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-(3-chloropropionylamino)benzyltriphenylphosphonium bromide | 7.5 g, 48% | [Br-].ClCCC(=O)NC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C28H25ClNOP.BrH/c29-21-20-28(31)30-27-19-11-10-12-23(27)22-32(24-13-4-1-5-14-24,25-15-6-2-7-16-25)26-17-8-3-9-18-26;/h1-19H,20-22H2;1H
